US07947727B2
2-Chloro-N-ethyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide
Prepared similarly to Example 1 from 2-chlorobenzoic acid and 3-(ethylamino)-1,1,1-trifluoro-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol.

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 3-(ethylamino)-1,1,1-trifluoro-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}-2-propanol | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=CC=C1 | C19H21F3N4O
product | 2-Chloro-N-ethyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide | ClC1=C(C(=O)N(CC(C(F)(F)F)(CNC2=C3C=NN(C3=CC=C2)C2=CC=CC=C2)O)CC)C=CC=C1 | C26H24ClF3N4O2
